US08420052B2
Compound 6-(4-(benzyloxy)-3-fluorophenyl)benzo[d]thiazol-2-amine (W146) was prepared using the general procedure for Suzuki coupling reaction between 4-(benzyloxy)-3-fluorophenylboronic acid (100 mg, 0.4 mmol) and 6-bromobenzo[d]thiazol-2-amine (92 mg, 0.4 mmol), as a white solid (65 mg, 58%). 1H NMR (400 MHz, acetone-d6) δ 7.92 (d, J=2.0 Hz, 1 H), 7.54-7.51 (m, 3 H), 7.49-7.46 (m, 1 H), 7.46-7.40 (m, 4 H), 7.37-7.33 (m, 1 H), 7.30-7.26 (m, 1 H), 6.86 (brs, 2 H), 5.25 (s, 2 H); MS (ESI) m/z 351 (M+H+).

reactant | 4-(benzyloxy)-3-fluorophenylboronic acid | 0.4 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)B(O)O)F | C13H12BFO3
reactant | 6-bromobenzo[d]thiazol-2-amine | 0.4 mmol, 92 mg | BrC1=CC2=C(N=C(S2)N)C=C1 | C7H5BrN2S
product | 6-(4-(benzyloxy)-3-fluorophenyl)benzo[d]thiazol-2-amine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CC2=C(N=C(S2)N)C=C1)F | C20H15FN2OS
